US05498728
A mixture of diethyl benzyl-4-nitrobenzylmalonate (24 g), KOH (14 g) and water (100 ml)-ethanol (150 ml) was stirred at 90°-100° C. for 7 hours. The reaction mixture was concentrated under reduced pressure and the residue was acidified with 1N HCl and extracted with ethylacetate. The ethyl acetate layer was washed with brine, dried (MgSO4) and concentrated under reduced pressure. The residue was dissolved in pyridine (100 ml) and the solution was stirred at 90° C. for 16 hours. The organic solvent was evaporated off and the residue was acidified with 1N HCl and extracted with ethyl acetate. The ethyl acetate layer was washed with brine, dried (MgSO4) and concentrated under reduced pressure. The residual oil was purified by column chromatography on silica gel. Elution with ethyl acetate-hexane (1:3, v/v) gave 2-benzyl-3-(p-nitrophenyl)propionic acid (10.5 g, 59%) as crystals.

reactant | diethyl benzyl-4-nitrobenzylmalonate | 24 g | C(C1=CC=CC=C1)C(C(=O)OCC)(C(=O)OCC)CC1=CC=C(C=C1)[N+](=O)[O-] | C21H23NO6
reactant | KOH | 14 g | [OH-].[K+]
reactant | water | 100 ml | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-benzyl-3-(p-nitrophenyl)propionic acid | 10.5 g, 59% | C(C1=CC=CC=C1)C(C(=O)O)CC1=CC=C(C=C1)[N+](=O)[O-] | C16H15NO4
